US09102642B2
4-Dimethylaminopyridine (3.13 g, 25.7 mmol) and toluene (10 ml) are added to a solution of 2,2,6,6-tetramethylpyran-3,5-dione (0.87 g, 5.13 mmol) in chloroform (40 ml) and the reaction mixture is heated to 80° C. 4-Bromo-2-ethylphenyllead triacetate (3.50 g, 6.16 mmol) is added portionwise over 5 minutes, and once the addition is complete the reaction mixture is stirred at 80° C. for a further 4 hours. The mixture is cooled to room temperature, 2M aqueous hydrochloric acid (40 ml) is added, and the mixture is stirred vigorously for 20 minutes, then filtered through a small plug of diatomaceous earth, washing with dichloromethane (40 ml). The organic phase is separated, and the aqueous phase is extracted with dichloromethane (2×40 ml). The organic solutions are combined, dried over anhydrous magnesium sulfate, filtered and the filtrate is concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2,2,6,6-tetramethylpyran-3,5-dione | 5.13 mmol, 0.87 g | CC1(OC(C(CC1=O)=O)(C)C)C | C9H14O3
reactant | 4-Bromo-2-ethylphenyllead triacetate | 6.16 mmol, 3.50 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].BrC1=CC(=C(C=C1)[Pb+3])CC
reactant | hydrochloric acid | 2M, 40 ml | Cl | ClH
catalyst | 4-Dimethylaminopyridine | 25.7 mmol, 3.13 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | BrC1=CC(=C(C=C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC | C17H21BrO3
